US09216999B2
1-(7-Chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-6-yl)ethanone
6-Bromo-7-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridine (379 mg, 1.05 mmol) in toluene (6 mL) was stirred with bis(triphenylphosphine)palladium(II) dichloride (106 mg, 0.151 mmol) and tributyl(1-ethoxyvinyl)tin (435 mg, 1.21 mmol) at 120° C. 4 hours. The reaction mixture was allowed to cool to room temperature and stirred with water (20 mL) and potassium fluoride (0.5 g) at room temperature for 1 hour. The reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was stirred with hydrogen chloride-methanol solution (10 wt %, 4 mL) at room temperature for 10 minutes. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1→3/1 (v/v)) to give the title compound as a yellow solid (89.6 mg, yield 26%).

reactant | 6-Bromo-7-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridine | 1.05 mmol, 379 mg | BrC=1C(=C2C(=NC1)N(C=N2)COCC[Si](C)(C)C)Cl | C12H17BrClN3OSi
reactant | tributyl(1-ethoxyvinyl)tin | 1.21 mmol, 435 mg | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | water | 20 mL | O | H2O
reactant | potassium fluoride | 0.5 g | [F-].[K+]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.151 mmol, 106 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(7-Chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-6-yl)ethanone | 89.6 mg, yield 26% | ClC1=C2C(=NC=C1C(C)=O)N(C=N2)COCC[Si](C)(C)C | C14H20ClN3O2Si
